US08304419B2
Step C: 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid
A solution of sodium chlorite (1.4 g, 15.3 mmol) and sodium dihydrogen phosphate monohydrate (1.2 g, 8.7 mmol) in water (3.3 mL) was added to a stirred solution of 4-chloro-2-methyl-1H-imidazole-5-carbaldehyde (0.308 g, 2.1 mmol), 2-methyl-2-butene (9.3 mL of a 2M solution in THF, 18.6 mmol), and tert-butanol (1.2 mL) in THF (4.7 mL). The reaction mixture was stirred at RT for 6 h. The aqueous phase was separated and extracted with EtOAc (4×10 mL). The combined extracts were dried (Na2SO4), filtered, concentrated and the residue was triturated with diethyl ether to provide the title compound (0.168 g, 50%) as white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.98 (br. s., 1H), 12.88, (br. s., 1H), 2.26 (s, 3H). ES-LCMS: m/z 160.9 (M+1).

reactant | sodium chlorite | 15.3 mmol, 1.4 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate monohydrate | 8.7 mmol, 1.2 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | 4-chloro-2-methyl-1H-imidazole-5-carbaldehyde | 2.1 mmol, 0.308 g | ClC=1N=C(NC1C=O)C | C5H5ClN2O
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
solvent | water | 3.3 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 4.7 mL | C1CCOC1 | C4H8O
solvent | tert-butanol | 1.2 mL | C(C)(C)(C)O | C4H10O
product | 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid | 0.168 g, 50% | ClC=1N=C(NC1C(=O)O)C | C5H5ClN2O2
